US20010027196A1
2-Amino-4-ethylsulfanyl-6-phenyl-pyrimidine-5-carbonitrile
From 2-amino-4-phenyl-6-thioxo-1,6-dihydro-pyrimidine-5-carbonitrile, ethyl bromide and sodium ethylate in ethanol. EI-MS m/e (%):256 (M+, 29), 255 ([M—H]+, 100).

reactant | 2-amino-4-phenyl-6-thioxo-1,6-dihydro-pyrimidine-5-carbonitrile | NC=1NC(C(=C(N1)C1=CC=CC=C1)C#N)=S | C11H8N4S
reactant | ethyl bromide | C(C)Br | C2H5Br
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-ethylsulfanyl-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)SCC)C#N)C1=CC=CC=C1 | C13H12N4S
